US09422271B2
To a solution of 2-bromothiophene (10 mL, 103.3 mmol, 1.0 eq) in dichloromethane (200 mL) was added ethyl 2-chloro-2-oxoacetate (13.8 mL, 123.9 mmol, 1.2 eq) and aluminum trichloride (16.5 g, 123.9 mmol, 1.2 eq) at 0° C. After stirring for 10 minutes, the reaction mixture was diluted with dichloromethane and poured into ice. The combined organic phase was washed (brine), dried (MgSO4), filtered and concentrated to give a residue, the residue was purified by silica gel column chromatography to yield ethyl 2-(5-bromothiophen-2-yl)-2-oxoacetate (7.0 g, 25.8%). LC-MS (m/z): 262.8 [M+H]+. 1H NMR (400 MHz, DMSO-d6): δ 1.33 (t, J=7.2 Hz, 3H), 4.33-4.39 (m, 2H), 7.48 (d, J=3.6 Hz, 1H), 7.94 (d, J=4.4 Hz, 1H).

reactant | 2-bromothiophene | 103.3 mmol, 10 mL, 1.0 eq | BrC=1SC=CC1 | C4H3BrS
reactant | ethyl 2-chloro-2-oxoacetate | 123.9 mmol, 13.8 mL, 1.2 eq | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | aluminum trichloride | 123.9 mmol, 16.5 g, 1.2 eq | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | ethyl 2-(5-bromothiophen-2-yl)-2-oxoacetate | 7.0 g, 25.8% | BrC1=CC=C(S1)C(C(=O)OCC)=O | C8H7BrO3S
